US06686369B1
17.4 g (91.6 mmol) of p-toluenesulfonic acid H2O, and then 5.9 g (91.6 mmol) of KCN in 25 ml of water, were added at 35° C. to a solution of 19.09 g (84.8 mmol) of 2,2-diphenylbutyraldehyde in 97 ml of THF (abs.). The mixture was then stirred at 40° C. for 4 hours and at room temperature for 16 hours. The mixture was evaporated to 1/3 of the volume, water was added, and the phases were separated. The aqueous phase was then extracted three times with ethyl acetate, and the combined organic phases were washed with 10% strength sodium disulfite solution, dried over MgSO4 and concentrated under reduced pressure. The crude product was chromatographed on silica gel with n-heptane/acetic acid (20:1). 19.5 g (92%) of 2-hydroxy-3,3-diphenylvaleronitrile were obtained as a pale oil.

reactant | KCN | 91.6 mmol, 5.9 g | [C-]#N.[K+]
reactant | 2,2-diphenylbutyraldehyde | 84.8 mmol, 19.09 g | C1(=CC=CC=C1)C(C=O)(CC)C1=CC=CC=C1 | C16H16O
solvent | water | 25 ml | O | H2O
solvent | THF | 97 ml | C1CCOC1 | C4H8O
product | 2-hydroxy-3,3-diphenylvaleronitrile | 19.5 g, 92% | OC(C#N)C(CC)(C1=CC=CC=C1)C1=CC=CC=C1 | C17H17NO
